US05698560
A 1M solution of methylmagnesium bromide in tetrahydrofuran (12 ml, 12 mmol) was dropwise and portionwise added to a solution of 2-cyanobenzaldehyde (1.31 g, 10.0 mmol) dissolved in dried tetrahydrofuran (25 ml), followed by stirring at room temperature for one night. After the reaction, water was added to the reaction mixture followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the drying agent was filtered off, and the solution was concentrated under reduced pressure to give 1-(2-cyanophenyl)ethanol (1.47 g, quantitative).

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 2-cyanobenzaldehyde | 10.0 mmol, 1.31 g | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mmol, 12 ml | O1CCCC1 | C4H8O
product | 1-(2-cyanophenyl)ethanol | 1.47 g | C(#N)C1=C(C=CC=C1)C(C)O | C9H9NO
